US07507740B2
(iii) Production of 3-(2-chloro-4-{[6-iodo-5-(methylamino)pyrimidin-4-yl]amino}phenoxy)benzonitrile
To a solution of N-(4-{[3-chloro-4-(3-cyanophenoxy)phenyl]amino}-6-iodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide (1.0 g) in isopropanol-tetrahydrofuran (5.0 mL-10 mL) was added sodium borohydride (70 mg) at room temperature. The mixture was stirred at room temperature for 1.5 hrs, and ethyl acetate was added. The mixture washed with water and saturated brine and the organic layer was dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=4:1→3:2) to give the title compound (755 mg) as a white amorphous solid.

reactant | N-(4-{[3-chloro-4-(3-cyanophenoxy)phenyl]amino}-6-iodopyrimidin-5-yl)-2,2,2-trifluoro-N-methylacetamide | 1.0 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C#N)NC1=NC=NC(=C1N(C(C(F)(F)F)=O)C)I | C20H12ClF3IN5O2
reactant | sodium borohydride | 70 mg | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isopropanol tetrahydrofuran | 5.0 mL-10 mL | C(C)(C)O.O1CCCC1
product | 3-(2-chloro-4-{[6-iodo-5-(methylamino)pyrimidin-4-yl]amino}phenoxy)benzonitrile | 755 mg | ClC1=C(OC=2C=C(C#N)C=CC2)C=CC(=C1)NC1=NC=NC(=C1NC)I | C18H13ClIN5O
